US06903086B2
To a solution of 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester (574 mg, 1.07 mmol) in DMF (5 mL) was added 1.0M tetra-n-butylammonium fluoride (1.1 mL, 1.07 mmol) under a nitrogen atmosphere. The mixture was stirred for 1.5 h. Water was added and the mixture was extracted, washed with water and brine, dried and concentrated to ca. 3 mL. The suspension was cooled at 0-5° C. for 40 min and filtered. Recrystallization of the obtained white solid gave 224 mg of 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid, 201, mp: 174.5-177.2° C.

reactant | 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid 2-trimethylsilanyl-ethyl ester | 1.07 mmol, 574 mg | C[Si](CCOC(=O)C1=C(C=CC2=CC=CC=C12)NC(=O)OCC=1OC2=C(C1)C=C(C=C2)C2=CC=CC=C2)(C)C | C32H31NO5Si
reactant | tetra-n-butylammonium fluoride | 1.07 mmol, 1.0M, 1.1 mL | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | Water | O | H2O
solvent | DMF | 5 mL | CN(C)C=O | C3H7NO
product | 2-(5-phenyl-benzofuran-2-ylmethoxycarbonylamino)-naphthalene-1-carboxylic acid | 224 mg | C1(=CC=CC=C1)C=1C=CC2=C(C=C(O2)COC(=O)NC2=C(C3=CC=CC=C3C=C2)C(=O)O)C1 | C27H19NO5
